US05559224
A 2.82 g portion of (2S)-4-amino-2-hydroxybutyric acid was dissolved in 15 ml of 2N sodium hydroxide, and to the solution cooled on an ice bath were simultaneously added dropwise 6.13 g of p-nitrobenzyloxycarbonyl chloride dissolved in ether and 7.5 ml of 4N sodium hydroxide. After 2 hours of stirring at the same temperature, the solution was washed with ether, an aqueous layer was adjusted to acidic with concentrated hydrochloric acid, and a precipitated solid material was collected by filtration, washed with water and then dried to yield 4.48 g of (2S)-4-(p-nitrobenzyloxycarbonyl) amino-2-hydroxybutyric acid.

reactant | (2S)-4-amino-2-hydroxybutyric acid | NCC[C@@H](C(=O)O)O | C4H9NO3
reactant | p-nitrobenzyloxycarbonyl chloride | 6.13 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
solvent | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | 4N, 7.5 ml | [OH-].[Na+]
product | (2S)-4-(p-nitrobenzyloxycarbonyl) amino-2-hydroxybutyric acid | 4.48 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC[C@@H](C(=O)O)O)C=C1 | C12H14N2O7
